### PR TITLE
[Merged by Bors] - feat: port Data.Rat.Lemmas

### PR DESCRIPTION
**Pull request by antoinelab01**

### CODE REVIEW

File: Mathlib/Data/Rat/Lemmas.lean [hunk 1]
```diff
@@ -0,0 +1,362 @@
...
+  rw [inv_def', divInt_eq_div]; rfl
+#align rat.inv_def' Rat.inv_def''
+
+protected theorem inv_neg (q : ℚ) : (-q)⁻¹ = -q⁻¹ := by
+  rw [← @num_den q]
+  simp only [Rat.neg_def, Rat.inv_def', eq_self_iff_true, Rat.divInt_neg_den]
+#align rat.inv_neg Rat.inv_neg
+
+--lemma (q : ℚ) : (q.num /. q.den).n
+
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Rat/Lemmas.lean:194]:
```suggestion
```

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
